US04863942
In the course of 10 minutes a solution of 3.45 ml of chloro-oxalic acid ethyl ester in 10 ml of methylene chloride is added dropwise to a solution of 9.2 g of 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-aniline and 4.3 ml of triethanolamine in 90 ml of methylene chloride. After stirring for 5 hours at room temperature the mixture is poured onto water and extracted with methylene chloride. Concentration of the extracts by evaporation and recrystallisation of the residue from ether yields N-{3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester having a melting point of 91°-92°.

reactant | chloro-oxalic acid ethyl ester | 3.45 ml | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | 3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-aniline | 9.2 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C=CC2)C=C1)CCC)OC | C21H27NO4
reactant | triethanolamine | 4.3 ml | N(CCO)(CCO)CCO | C6H15NO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(4-acetyl-3-methoxy-2-n-propylphenoxy)-propoxy]-phenyl}-oxamic acid ethyl ester | C(C)OC(C(=O)NC1=CC(=CC=C1)OCCCOC1=C(C(=C(C=C1)C(C)=O)OC)CCC)=O | C25H31NO7
